* Z:\mnt\design.r\spice\examples\1216.asc
V1 +V 0 5
R1 N002 N001 20K
R2 N001 N004 10K
V2 IN 0 SINE(0 1 1K)
XU1 N006 N001 +V 0 N002 LT1215
XU2 N008 N010 +V 0 N009 LT1215
XU4 N003 N005 +V 0 N004 LT1215
R3 N006 N007 10K
R4 0 N006 20K
R5 N002 N008 10K
R6 N008 N004 10K
C1 N002 N001 22p
R7 N009 N010 10K
R8 N010 N007 10K
C2 N009 N010 22p
R9 N004 N005 11.3K
C3 N004 N005 22p
XU3 N003 N012 +V 0 N007 LT1215
R10 N007 N012 11.3K
C4 N007 N012 22p
R11 0 N003 10K
R12 N003 +V 20K
R13 N003 N011 1K
C5 IN N011 10µ
R14 OUT N009 100K
C6 OUT 0 1µ
.tran 1
* Single Supply, AC Coupled Input, RMS Calibrated, Average Detector
.lib LTC.lib
.backanno
.end
